US06184244B2
To a stirred turbid mixture of N-[valinyl]aspartic acid, α-methyl, β-tert-butyl diester (2.75 g, 9.11 mmol) and 1,3-dimethylindole-2-carboxylic acid (1.95 g, 10 10.3 mmol) in DMF (30 ml) was added 4-dimethylaminopyridine (DMAP) (1.26 g, 10.3 mmol) and EDAC (2.37 g, 12.4 mmol). The reaction mixture was stirred under a nitrogen atmosphere at 0° C. for 1 hour and at room temperature for 3 hours. The reaction mixture was then partitioned between ethyl acetate and 5% KHSO4 solution and the aqueous solution was back-extracted with ethyl acetate. The combined extracts were washed with saturated NaHCO3 solution, water, and brine, dried over sodium sulfate, and concentrated to give a solid. The solid was triturated with ether to give N-[1,3-dimethyl-indole-2-carbonyl) valinyl]aspartic acid, α-methyl, β-tert butyl diester as a white powder (2.87 g, 67%).

reactant | N-[valinyl]aspartic acid | N[C@@H](C(C)C)C(=O)N[C@@H](CC(=O)O)C(=O)O | C9H16N2O5
reactant | 1,3-dimethylindole-2-carboxylic acid | 10.3 mmol, 1.95 g | CN1C(=C(C2=CC=CC=C12)C)C(=O)O | C11H11NO2
reactant | EDAC | 12.4 mmol, 2.37 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 10.3 mmol, 1.26 g | CN(C1=CC=NC=C1)C | C7H10N2
product | aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
